US05164113
When the above procedures were repeated in the same manner except that β-hydroxybutanoic acid synthesized in Referential Example 2 was used instead of (R)-β-hydroxynonanoic acid, (2S,5R)-2-hydroxy-5-methyl-δ-valerolactone was obtained.

reactant | β-hydroxybutanoic acid | OC(CC(=O)O)C | C4H8O3
reactant | (R)-β-hydroxynonanoic acid | O[C@@H](CC(=O)O)CCCCCC | C9H18O3
product | (2S,5R)-2-hydroxy-5-methyl-δ-valerolactone | O[C@@H]1C(=O)O[C@@H](CC1)C | C6H10O3
